US08492582B2
Under ice-cooling, 1-methylpiperazine (0.16 mL) was added to an acetone (2.3 mL) suspension of tert-butyl 2-(5-(bromomethyl)-2-(methoxymethoxy)benzamido)-4-phenylbenzoate (0.15 g), followed by stirring at room temperature for 2 hours. The solvent was evaporated under reduced pressure, and a 1.0 mol/L aqueous solution of sodium hydroxide and chloroform were added to the residue. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Kanto Chemical Co., Inc., silica gel 60 (spherical), eluent: 100-95% chloroform/methanol] to obtain 0.14 g of tert-butyl 2-(2-(methoxymethoxy)-5-((4-methylpiperazin-1-yl)methyl)benzamido)-4-phenylbenzoate as a yellow oil substance.

reactant | 1-methylpiperazine | 0.16 mL | CN1CCNCC1 | C5H12N2
reactant | tert-butyl 2-(5-(bromomethyl)-2-(methoxymethoxy)benzamido)-4-phenylbenzoate | 0.15 g | BrCC=1C=CC(=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C1)OCOC | C27H28BrNO5
solvent | acetone | 2.3 mL | CC(=O)C | C3H6O
product | tert-butyl 2-(2-(methoxymethoxy)-5-((4-methylpiperazin-1-yl)methyl)benzamido)-4-phenylbenzoate | 0.14 g | COCOC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)CN1CCN(CC1)C | C32H39N3O5
